US04056496
Two hundred grams (1.406 mole) of glycidyl methacrylate, 300 ml of water and 0.5 ml of concentrated sulfuric acid are stirred for 5 days at 24-29° C. A clear solution forms having a pH of 2.0 which is neutralized with 10% sodium hydroxide. The solution is extracted with six 100 ml portions of ethyl ether. The aqueous layer is stirred and saturated with sodium sulfate which is then extracted with six 100 ml portions of methylene chloride. The methylene chloride extracts are concentrated under reduced pressure to yield 118.7 grams of glyceryl methacrylate containing 2.19% unreacted glycidyl methacrylate. 62.6 gm of this material is mixed with 26.1 gm of methyl methacrylate. The mixture is combined with 18.2 mg of isopropyl percarbonate, and separated into four test tubes. Nitrogen is bubbled through each tube, the tubes arecooled to - 30° C, evacuated, filled with nitrogen, sealed under vacuum, and put into a constant temperature bath at 40° C for 5 hours. The tubes are then put in an oven held at 75° C overnight. The next morning, the temperature is increased to 90° C for one hour. The tubes are then cooled and broken to provide a solid rod of polymer.

reactant | glycidyl methacrylate | 1.406 mole, Two hundred grams | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
product | glyceryl methacrylate | 118.7 grams, 2.19% | C(C(=C)C)(=O)OCC(O)CO | C7H12O4
